US07427623B2
a) 1-(3,4-Dichloro-phenyl)-cyclopropanecarbonitrile
To a stirred mixture of 3,4-Dichloro-phenylacetonitrile (4.65 g. 25 mmol) triethylbenzylammonium chloride (0.2 g) and 1-bromochoroethane (4.2 ml, 50 mmol), 50% sodium hydroxide (16 ml, 200 mmol) was added dropwise at 50° then the reaction was stirred at 50° for 10 hrs. After cooling to rt, the reaction mixture was diluted with water and extracted with EtOAc (×3). The layers were separated, washed with water (×3) and brine, then dried over MgSO4. Evaporation of the solvent under reduced pressure afforded the title compound (5.43 g) which was then recrystallized from Et2O/hexanes as a pale pink solid (4.49 g, 85%). Lc/MS(ES) m/e 212 [M+H]+.

reactant | 3,4-Dichloro-phenylacetonitrile | 25 mmol, 4.65 g | ClC=1C=C(C=CC1Cl)CC#N | C8H5Cl2N
reactant | 1-bromochoroethane | 50 mmol, 4.2 ml | BrC(C)Cl | C2H4BrCl
reactant | sodium hydroxide | 200 mmol, 16 ml | [OH-].[Na+]
catalyst | triethylbenzylammonium chloride | 0.2 g | [Cl-].C(C)[N+](CC1=CC=CC=C1)(CC)CC
solvent | water | O | H2O
product | 1-(3,4-Dichloro-phenyl)-cyclopropanecarbonitrile | 5.43 g | ClC=1C=C(C=CC1Cl)C1(CC1)C#N | C10H7Cl2N
